datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC#CC(=O)[O:21][H:20].Cc1cc(Nc2ccc([O-])cc2)cc(C)c1[O-:10]>>CC#CC(=O)[O-:21].Cc1cc(Nc2ccc([O-])cc2)cc(C)c1[O:10][H:20] 10=20;20,21=21",
"CC1CC[NH:10]CC1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1CC[NH+:10]([H:20])CC1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1c(N)cnc[n:10]1.c1ccc(-c2cccc(-c3cccc[n+:21]3[H:20])n2)nc1>>Cc1c(N)cnc[n+:10]1[H:20].c1ccc(-c2cccc(-c3cccc[n:21]3)n2)nc1 10=20;20,21=21",
"CCOC(=O)/C(=N/[O-:10])c1ccccc1.Nc1ccc(B(O)[O:21][H:20])cc1>>CCOC(=O)/C(=N/[O:10][H:20])c1ccccc1.Nc1ccc(B(O)[O-:21])cc1 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCC[N:10](CC(O)CC)CC(O)CC.ON=C(c1ccccc1)[N:21](O)[H:20]>>CCCCCCCCCCCCCCCCCC[N+:10](CC(O)CC)(CC(O)CC)[H:20].ON=C(c1ccccc1)[N-:21]O 10=20;20,21=21",
"C[C:21](C1=CC=CC(Cl)=C1)([N+](=O)[O-])[H:20].[O-][N+]([O-])=C(CO)C[O-:10]>>C[C-:21](C1=CC=CC(Cl)=C1)[N+](=O)[O-].[O-][N+]([O-])=C(CO)C[O:10][H:20] 10=20;20,21=21",
"CC(CN)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(CN)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Cc1ccccc1-n1nn[n+:21]([H:20])c1N.Nc1cc[n:10]cn1>>Cc1ccccc1-n1nn[n:21]c1N.Nc1cc[n+:10]([H:20])cn1 10=20;20,21=21",
"Cn1c(CCl)nc2c([O-:10])ccc(O)c21.[O-]c1ccc(F)cc1C[N+:21]1([H:20])CCCCC1>>Cn1c(CCl)nc2c([O:10][H:20])ccc(O)c21.[O-]c1ccc(F)cc1C[N:21]1CCCCC1 10=20;20,21=21",
"O=C([C@@H]1CCCC[C@@H]1O)[O-:10].O[C@H]1CCCCC[C@@H]1[NH2+:21][H:20]>>O=C([C@@H]1CCCC[C@@H]1O)[O:10][H:20].O[C@H]1CCCCC[C@@H]1[NH2:21] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cc([O-:10])c2ncncc2c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cc([O:10][H:20])c2ncncc2c1 10=20;20,21=21",
"C[C@H](CCC[NH+:21](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.O=[N+]([O-])c1cc(-c2ccccc2)ccc1[O-:10]>>C[C@H](CCC[NH:21]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3[C@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.O=[N+]([O-])c1cc(-c2ccccc2)ccc1[O:10][H:20] 10=20;20,21=21",
"Brc1cccc2ccc([O:21][H:20])cc12.C#CC[N:10]1CCN(C(=O)OCC)CC1>>Brc1cccc2ccc([O-:21])cc12.C#CC[N+:10]1([H:20])CCN(C(=O)OCC)CC1 10=20;20,21=21",
"Cc1cc(C)c([O-:10])c([N+](=O)[O-])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(C)c([O:10][H:20])c([N+](=O)[O-])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1cccc(OC)c1[O-:10].C[C@]1(O)CCCC[C@@H]1[NH2+:21][H:20]>>COc1cccc(OC)c1[O:10][H:20].C[C@]1(O)CCCC[C@@H]1[NH2:21] 10=20;20,21=21",
"CC[N-:10]C(=S)OC(C)C.c1ccc(Nc2nnn[n:21]2[H:20])cc1>>CC[N:10](C(=S)OC(C)C)[H:20].c1ccc(Nc2nnn[n-:21]2)cc1 10=20;20,21=21",
"Cc1ccccc1N[N+:21](=C(C#N)C#N)[H:20].O=C1c2ccc([N+](=O)[O-])cc2C(=O)[N-:10]1>>Cc1ccccc1N[N:21]=C(C#N)C#N.O=C1c2ccc([N+](=O)[O-])cc2C(=O)[N:10]1[H:20] 10=20;20,21=21",
"C1CNC[NH:10]C1.C[N+:21](C)(O)[H:20]>>C1CNC[NH+:10]([H:20])C1.C[N:21](C)O 10=20;20,21=21",
"CCCCCOc1ccc(C(=O)[O:21][H:20])cc1.C[N+](C)(C)Cc1cccc([O-:10])c1>>CCCCCOc1ccc(C(=O)[O-:21])cc1.C[N+](C)(C)Cc1cccc([O:10][H:20])c1 10=20;20,21=21",
"C=C(F)C(=O)[O:21][H:20].S=C1NC(c2ccccc2)=C(SCc2ccccc2)[N-:10]1>>C=C(F)C(=O)[O-:21].S=C1NC(c2ccccc2)=C(SCc2ccccc2)[N:10]1[H:20] 10=20;20,21=21",
"CC[NH+](CC)Cc1c(Cl)c(Cl)cc(Cl)c1[O:21][H:20].C[Si](C)(C)c1ccc(C(=O)[O-:10])cc1>>CC[NH+](CC)Cc1c(Cl)c(Cl)cc(Cl)c1[O-:21].C[Si](C)(C)c1ccc(C(=O)[O:10][H:20])cc1 10=20;20,21=21",
"CN(C)c1ccc([O-:10])cc1.CSc1nc(N)[n+:21]([H:20])[nH]1>>CN(C)c1ccc([O:10][H:20])cc1.CSc1nc(N)[n:21][nH]1 10=20;20,21=21",
"C[n+]1c(N[NH2:10])ccc2ccccc21.[S-]c1nc2nccnc2c[n+:21]1[H:20]>>C[n+]1c(N[NH2+:10][H:20])ccc2ccccc21.[S-]c1nc2nccnc2c[n:21]1 10=20;20,21=21",
"CC1CCCC[NH:10]1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC1CCCC[NH+:10]1[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=CC=C2)[H:20])C=C1>>CCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(=O)N1CCc2noc([O-:10])c2CC1.CCOCCn1c(N2CCC[N+:21](CCCCn3cccn3)([H:20])CC2)nc2ccccc21>>CC(=O)N1CCc2noc([O:10][H:20])c2CC1.CCOCCn1c(N2CCC[N:21](CCCCn3cccn3)CC2)nc2ccccc21 10=20;20,21=21",
"Nc1nc2cc3ccccc3cc2[n-:10]1.O=[N+]([O-])c1ccc(Cl)cc1C[NH2+:21][H:20]>>Nc1nc2cc3ccccc3cc2[n:10]1[H:20].O=[N+]([O-])c1ccc(Cl)cc1C[NH2:21] 10=20;20,21=21",
"Cc1ccc(Cl)cc1/C(c1ccccc1)=[N:10]\CCC[NH+](C)C.O=C(c1cnc(Cl)s1)[O:21][H:20]>>Cc1ccc(Cl)cc1/C(c1ccccc1)=[N+:10](\CCC[NH+](C)C)[H:20].O=C(c1cnc(Cl)s1)[O-:21] 10=20;20,21=21",
"CC[NH+:21](N)[H:20].O=C([O-])/C=C\C[NH2:10]>>CC[NH:21]N.O=C([O-])/C=C\C[NH2+:10][H:20] 10=20;20,21=21",
"CCCC[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=C(Cl)C=C1)[H:20]>>CCCC[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=C(Cl)C=C1 10=20;20,21=21",
"Cc1cccc([N-:10]S(=O)(=O)c2ccccc2)c1.O=[N+]([O-])c1cc(Br)ccc1[O:21][H:20]>>Cc1cccc([N:10](S(=O)(=O)c2ccccc2)[H:20])c1.O=[N+]([O-])c1cc(Br)ccc1[O-:21] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cc2cc([O-:10])ccc2cn1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cc2cc([O:10][H:20])ccc2cn1 10=20;20,21=21",
"CC(=O)OCC[N:10](C)C.O=Cc1ncccc1[O:21][H:20]>>CC(=O)OCC[N+:10](C)(C)[H:20].O=Cc1ncccc1[O-:21] 10=20;20,21=21",
